US09428460B2
tert-butyl N-[(cis-4-hydroxycyclohexyl)methyl]carbamate
cis-4-[(tert-Butoxycarbonyl)aminomethyl]cyclohexyl-4-nitrobenzoate (4.81 g, 12.7 mmol) was dissolved in methanol (345 mL) and sodium hydroxide (10.17 g, 254.2 mmol) was added. After 20 hours at room temperature, methanol was removed under vacuum. The residue was taken up in water and extracted with ethyl acetate. After drying the organic phase over sodium sulphate, and removing the drying agent and solvent residues under vacuum, the product was obtained at 88% yield (2.57 g), and was used without purification in the next reaction.

reactant | cis-4-[(tert-Butoxycarbonyl)aminomethyl]cyclohexyl-4-nitrobenzoate | 12.7 mmol, 4.81 g | C(C)(C)(C)OC(=O)NC[C@H]1CC[C@H](CC1)C1=C(C(=O)[O-])C=CC(=C1)[N+](=O)[O-]
reactant | sodium hydroxide | 254.2 mmol, 10.17 g | [OH-].[Na+]
solvent | methanol | 345 mL | CO | CH4O
product | tert-butyl N-[(cis-4-hydroxycyclohexyl)methyl]carbamate | 88% yield | O[C@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O | C12H23NO3
